US04973576
A mixture of 38 g of ethyl hexanoylpyruvate in 190 ml of ethanol in the presence of 14.4 g of hydroxylamine hydrochloride and 16 g of sodium hydrogencarbonate was heated under reflux for 3 hours. After the reaction mixture was cooled to room temperature, the insoluble materials were separated by filtration, and the remaining filtrate was concentrated. The resulting residue was dissolved in chloroform (500 ml), which was washed with water, concentrated to give 5-pentyl-3-carboethoxyisoxazole as a liquid (36 g).

reactant | ethyl hexanoylpyruvate | 38 g | C(CCCCC)(=O)CC(C(=O)OCC)=O | C11H18O4
reactant | hydroxylamine hydrochloride | 14.4 g | Cl.NO
reactant | sodium hydrogencarbonate | 16 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 190 ml | C(C)O | C2H6O
product | 5-pentyl-3-carboethoxyisoxazole | 36 g | C(CCCC)C1=CC(=NO1)C(=O)OCC | C11H17NO3
